US07148226B2
2-Ethyl-4-nitro-pyridine
A solution of phosphorous trichloride (7.2 mL, 82 mmol) in CH2Cl2 was added to a cooled 0° C. solution of 2-ethyl-4-nitro-pyridine 1-oxide (3 g, 17.8 mmol) in CH2Cl2. The reaction was stirred for 2 hours and then warmed up to rt. After 3 hours the mixture was poured into ice, made basic with 15% NaOH and extracted with EtOAc. The organic extracts were dried over Na2SO4 and concentrated to a yellow oil that solidified on standing (2.56 g, 95%). 1H NMR (400 MHz, CDCl3): δ 1.40 (t, J=7.6 Hz, 3 H), 3.14 (d, J=7.6 Hz, 2 H), 8.04 (d, J=5.6 Hz, 1 H), 8.06 (s, 1 H), 8.92 (d, J=5.6 Hz, 1 H).

reactant | phosphorous trichloride | 82 mmol, 7.2 mL | P(Cl)(Cl)Cl | Cl3P
reactant | 2-ethyl-4-nitro-pyridine 1-oxide | 17.8 mmol, 3 g | C(C)C1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C7H8N2O3
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-4-nitro-pyridine | C(C)C1=NC=CC(=C1)[N+](=O)[O-] | C7H8N2O2
